US04775671
14.5 g (47.7 mmol) of (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid are suspended in 55 ml of N,N-dimethylformamide, whereupon the suspension is treated portionwise with 10.3 g (63.5 mmol) of 1,1'-carbonyldiimidazole and the mixture is stirred at room temperature for 1 hour and at 50° for 1.5 hours. The mixture is then poured into 250 ml of water and extracted four times with methylene chloride. The combined organic extracts are washed three times with water, dried over magnesium sulphate and evaporated. For purification, the residue is crystallized by means of ethyl acetate. There is obtained 1-[[(S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole of decomposition point 223°-225°.

reactant | (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylic acid | 47.7 mmol, 14.5 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)O)CC1)=O | C14H10ClN3O3
reactant | 1,1'-carbonyldiimidazole | 63.5 mmol, 10.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | 250 ml | O | H2O
solvent | N,N-dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
product | 1-[[(S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-1-yl]carbonyl]imidazole | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)N3C=NC=C3)CC1)=O | C17H12ClN5O2
